US05776983
3. 2-Bromo-1-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethanone
To a stirred 60° C. dioxane (35 mL) solution of 1-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethanone (2.06 g, 8.7 mmol) was rapidly added Br2 (1.48 g, 9.2 mmol). After one hour, the solution was cooled, concentrated and diluted with H2O. After filtration, the product was washed thoroughly with H2O, then with i-PrOH (9 mL), and air-dried to obtain the title compound (2.43 g, 84%).

reactant | 1-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethanone | 8.7 mmol, 2.06 g | OC1=C(C=C(C=C1)C(C)=O)NS(=O)(=O)C | C9H11NO4S
reactant | Br2 | 9.2 mmol, 1.48 g | BrBr | Br2
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 2-Bromo-1-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethanone | 2.43 g, 84% | BrCC(=O)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C9H10BrNO4S
